US04537984
6.1 g of 4-hydroxybenzaldehyde, 9 g of n-butyl α-chloropropionate, 4 g of sodium carbonate, 0.2 g of potassium iodide and 20 g of dimethyl formamide, were mixed, and the mixture was stirred at 100° C. for 5 hours and then cooled to room temperature. The inorganic salts were filtered off and washed with dimethylformamide. The solution from the washing was combined with the filtrate, followed by concentration and distillation under reduced pressure, whereby 11.3 g of butyl 2-(4-formylphenoxy)propionate was obtained as a colorless transparent liquid. The boiling point was from 135 to 140° C./0.1 mmHg.

reactant | 4-hydroxybenzaldehyde | 6.1 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | n-butyl α-chloropropionate | 9 g | ClC(C(=O)OCCCC)C | C7H13ClO2
reactant | sodium carbonate | 4 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | potassium iodide | 0.2 g | [I-].[K+]
solvent | dimethyl formamide | 20 g | CN(C=O)C | C3H7NO
product | butyl 2-(4-formylphenoxy)propionate | 11.3 g | C(=O)C1=CC=C(OC(C(=O)OCCCC)C)C=C1 | C14H18O4
